US07842688B2
a) tert-Butyl 3-{2-[5-(2-acetylaminoethyl)-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.191 g of tert-butyl 3-{2-[5-(2-acetylaminoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.055 ml of triethylamine in 6 ml of ethanol is hydrogenated in the presence of 0.060 g of 10% Pd/C (added 4 times) at room temperature over 60 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The residue is taken up in ethyl acetate, washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.22 (95:5 dichloromethane-methanol); Rt=4.54.

reactant | tert-butyl 3-{2-[5-(2-acetylaminoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.191 g | C(C)(=O)NCCC=1C(=NC(=NC1Cl)C)OCCOC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C38H51ClN4O8
reactant | triethylamine | 0.055 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.060 g | [Pd] | Pd
product | tert-Butyl 3-{2-[5-(2-acetylaminoethyl)-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC=1C(=NC(=NC1)C)OCCOC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C38H52N4O8
